US04061761
3-Ethyl-2-ethylimino-4-(3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
3.5 g of 2-chloro-3'-sulfamoylacetophenone and 2.1 g of ground 1,3-diethylthiourea were reacted as prescribed in Example 12. 150 ml of diisopropyl ether were added, the solvent was decanted and the amorphous end product was crystallized under ethyl acetate. Colorless solid body, decomposition beginning at 80° C, γC=N 1615 cm-1.

reactant | 2-chloro-3'-sulfamoylacetophenone | 3.5 g | ClCC(=O)C1=CC(=CC=C1)S(N)(=O)=O | C8H8ClNO3S
reactant | 1,3-diethylthiourea | C(C)NC(=S)NCC | C5H12N2S
solvent | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
product | 3-Ethyl-2-ethylimino-4-(3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=CC=C1)S(N)(=O)=O)=NCC | InChI=1S/C13H19N3O3S2.ClH/c1-3-15-12-16(4-2)13(17,9-20-12)10-6-5-7-11(8-10)21(14,18)19;/h5-8,17H,3-4,9H2,1-2H3,(H2,14,18,19);1H
